US06858651B2
A solution of 200 mg (corresponds to 0.43 mmol) of trans-Methanesulfonic acid 3-{4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexyl}-prop-2-ynyl ester in 4.3 ml of methanol was cooled to 0° C., treated with 0.44 ml (1 mmol) of Ethyl-(2-methoxy-ethyl)-amine and stirred over night at RT. The solvent was evaporated and the residue extracted with aqueous saturated NaHCO3/Et2O (3×). The organic phase was dried with Na2SO4, filtered and evaporated. Purification by flash column chromatography on silica gel (CH2Cl2/MeOH 99:1) gave 144 mg (83%) of pure trans-(4-{3-[Ethyl-(2-methoxy-ethyl)-amino]-prop-1-ynyl}-cyclohexyl)-methyl-carbamic acid 4-chloro-phenyl ester, MS: 407 (MH+, 1Cl). The following compounds were prepared from the corresponding mesylates and secondary amines:

reactant | trans-Methanesulfonic acid 3-{4-[(4-chloro-phenoxycarbonyl)-methyl-amino]-cyclohexyl}-prop-2-ynyl ester | 0.43 mmol, 200 mg | ClC1=CC=C(OC(=O)N([C@@H]2CC[C@H](CC2)C#CCOS(=O)(=O)C)C)C=C1 | C18H22ClNO5S
reactant | Ethyl-(2-methoxy-ethyl)-amine | 1 mmol, 0.44 ml | C(C)NCCOC | C5H13NO
solvent | methanol | 4.3 ml | CO | CH4O
product | trans-(4-{3-[Ethyl-(2-methoxy-ethyl)-amino]-prop-1-ynyl}-cyclohexyl)-methyl-carbamic acid 4-chloro-phenyl ester | 144 mg, 83% | ClC1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)C#CCN(CCOC)CC)=O | C22H31ClN2O3
